US07485732B2
Step 2: 2-{1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}-2-(3,5-difluorophenyl)-1-methylethyl isopropylcarbamate
To a solution of 45 mg (0.073 mmol) of 2-{1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}-2-(3,5-difluorophenyl)-1-methylethyl 4-nitrophenyl carbonate in 3 mL of methylene chloride was added 0.3 mL of isopropylamine and the reaction was stirred for 4 h at rt, followed by concentration and purification of the residue by silica gel chromatography with hexanes/ethyl acetate=4:1 to afford the title compound as white solid. Mass Spectrum: m/e=545 (M+1 35Cl, 35Cl) and 547 (M+1 35Cl, 37Cl).

reactant | 2-{1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}-2-(3,5-difluorophenyl)-1-methylethyl 4-nitrophenyl carbonate | 0.073 mmol, 45 mg | C(OC(C(C1=CC(=CC(=C1)F)F)=C1CN(C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)C)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C32H24Cl2F2N2O5
reactant | isopropylamine | 0.3 mL | C(C)(C)N | C3H9N
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-{1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}-2-(3,5-difluorophenyl)-1-methylethyl isopropylcarbamate | C(C)(C)NC(OC(C(C1=CC(=CC(=C1)F)F)=C1CN(C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)C)=O | C29H28Cl2F2N2O2
